US07576094B2
To a cold solution of 6′-methoxy-7′,8′-dimethyl-1′H-spiro[cyclobutane-1,3′-quinolin]-4′(2′H)-one (2 g) in a mixture of 13 mL of THF and 5 mL of CH3OH cooled in ice bath, was added NaBH4 (2.4 g). After 2 hours, the mixture was quenched with ice, evaporated to dryness to give 6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinolin]-4′-ol as a crude mixture (11 g). NaBH4 (3 g) was added in portions to a mixture of trifluoroacetic acid and acetic acid (25 mL, v/v:1/1) cooled in ice bath, and to this mixture was added the above obtained mixture of 6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinolin]-4′-ol dissolved in 10 mL of THF. After 15 min, the mixture was quenched with ice, extracted with dichloromethane, and washed with brine. The organic phase was then washed with NaOH (2 M) and brine, dried, evaporated to dryness and passed through a silica column (Hexane: EtOAc; 10:1) to give 6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline] (1.3 g) as a liquid with slightly yellow color. 1H-NMR (300 MHz, CDCl3) δ=6.44071 (s, 1H), 3.74 (s, 3H), 3.59-3.24 (s, 1H), 3.18 (s, 2H), 2.75 (s, 2H), 2.13 (s, 3H), 2.03 (s, 3H), 2.01-1.73 (m, 6H) ppm. 13C-NMR (75 MHz, CDCl3) δ=149.88, 136.21, 123.51, 131.91, 118.09, 110.83, 56.51, 51.91, 40.82, 36.09, 30.84, 15.25, 13.07, and 12.03 ppm.

reactant | NaBH4 | 3 g | [BH4-].[Na+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
reactant | 6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinolin]-4′-ol | COC=1C=C2C(C3(CNC2=C(C1C)C)CCC3)O | C15H21NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6′-methoxy-7′,8′-dimethyl-2′,4′-dihydro-1′H-spiro[cyclobutane-1,3′-quinoline] | 1.3 g | COC=1C=C2CC3(CNC2=C(C1C)C)CCC3 | C15H21NO
